US05840738
4-(2-Methyl-2-nitropropyl)phenol
A mixture of 4-hydroxybenzyl alcohol (100.08 g, 806 mmol), 2-nitropropane (400 mL, 4.45 mol) and diglyme (800 mL) was heated to 38° C. Potassium L-butoxide (45.29 g, 403.6 mmol) was added, and the mixture was heated to reflux at 132° C. with a Dean-Stark trap. Water began collecting in the trap, and continued at a high rate for approximately 1.5 h. When water collection slowed (around 2.5 h) then portions of solvent (30-40 mL each) were removed every thirty minutes. During the water collection and solvent removal the temperature rose from 132° C. to 149° C. After 4 h less than 1% of the 4-hydroxybenzyl alcohol remained by HPLC analysis. The heating mantle was removed, and the reaction mixture was allowed to cool. When the temperature was 100° C. water (200 mL) was added, and the solution was allowed to cool to room temperature. Solvent was removed on a rotary evaporator under vacuum until 593 g of solution remained. Water (500 mL) and EtOAc (500 mL) were added and the layers were separated (layer separation was poor, but addition of 20% aqueous NaCl was ineffectual). The aqueous layer was extracted with EtOAc (200 mL), and the combined organic layers were extracted with 1N HCl (500 mL) and water (300 mL). The organic layer was distilled in vacuo to 261 g of oil to which EtOAc was added (160 mL). Heptane (3.4 L) was added rapidly with vigorous stirring for 30 min, and the product crystallized to yield a beige solid (112.36 g, 71% yield, >98% purity by HPLC analysis). Another crop of crystals may be obtained from the filtrate by concentrating and filtering the solids, or by concentrating more fully to a solution and adding heptane to crystallize. NMR. E.A.

reactant | 4-hydroxybenzyl alcohol | 806 mmol, 100.08 g | OC1=CC=C(CO)C=C1 | C7H8O2
reactant | 2-nitropropane | 4.45 mol, 400 mL | [N+](=O)([O-])C(C)C | C3H7NO2
solvent | diglyme | 800 mL | COCCOCCOC | C6H14O3
product | 4-(2-Methyl-2-nitropropyl)phenol | 71% yield | CC(CC1=CC=C(C=C1)O)(C)[N+](=O)[O-] | C10H13NO3
